US05075299
5-Hydroxy-2-methyl-4-pyrone
Kojic acid, 30 g, as added to 150 ml of water and dissolved at 70° C. To the solution was added 30 g of zinc powders and, 90 ml of conc. hydrochloric acid (12 N) was dropwise added to the mixture over 2 hours. The mixture was stirred at the same temperature for 30 minutes. Insoluble matters (zinc powders) were removed and the reaction liquid was cooled to 5° C. After adjusting its pH to 2 with 50% aqueous sodium hydroxide solution, the mixture was concentrated under reduced pressure and the residue was dissolved in 100 ml of dichloromethane. The solution was washed with water (100 ml, 3 times). After drying over anhydrous magnesium sulfate, the system was separated and purified by flash column chromatography (eluting solution; chloroform: methanol=20:1) using Wako Gel C-300 (200 g) to give 2.4 g of the title compound as crystals. Physical data of this compound were identical with those of the compound obtained in Reference Example 11.

reactant | Kojic acid | C1=C(OC=C(C1=O)O)CO | C6H6O4
reactant | hydrochloric acid | 12 N, 90 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | zinc | 30 g | [Zn] | Zn
solvent | water | 150 ml | O | H2O
product | 5-Hydroxy-2-methyl-4-pyrone | 2.4 g | OC=1C(C=C(OC1)C)=O | C6H6O3
